*Feb 16, 2010 
*Doc. ID: 90168, Rev. A 
*File Name: part irf520n_PS.txt and part irf520n_PS.spi 
*This document is intended as a SPICE modeling guideline and does not 
*constitute a commercial product data sheet. Designers should refer to the 
*appropriate data sheet of the same number for guaranteed specification 
*limits. 
.SUBCKT irf520n 1 2 3 ************************************** 
* Model Generated by MODPEX * 
*Copyright(c) Symmetry Design Systems* 
* All Rights Reserved * 
* UNPUBLISHED LICENSED SOFTWARE * 
* Contains Proprietary Information * 
* Which is The Property of * 
* SYMMETRY OR ITS LICENSORS * 
*Commercial Use or Resale Restricted * 
* by Symmetry License Agreement * 
************************************** 
* Model generated on Apr 24, 96 
* Model format: SPICE3 
* Symmetry POWER MOS Model (Version 1.0) 
* External Node Designations 
* Node 1 -> Drain 
* Node 2 -> Gate 
* Node 3 -> Source 
M1 9 7 8 8 MM L=100u W=100u 
* Default values used in MM: 
* The voltage-dependent capacitances are 
* not included. Other default values are: 
* RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0 
.MODEL MM NMOS LEVEL=1 IS=1e-32 
+VTO=2.79085 LAMBDA=0 KP=1.5946 
+CGSO=2.79023e-06 CGDO=1e-11 
RS 8 3 0.00043957 
D1 3 1 MD 
.MODEL MD D IS=8.70123e-12 RS=0.0112359 N=1.18415 BV=100 
+IBV=0.00025 EG=1.2 XTI=4 TT=1e-07 
+CJO=1.90917e-10 VJ=0.5 M=0.395048 FC=0.1 
RDS 3 1 4e+06 
RD 9 1 0.0981901 
RG 2 7 2.49106 
D2 4 5 MD1 
* Default values used in MD1: 
* RS=0 EG=1.11 XTI=3.0 TT=0 
* BV=infinite IBV=1mA 
.MODEL MD1 D IS=1e-32 N=50 
+CJO=4.11936e-10 VJ=0.5 M=0.519039 FC=1e-08 
D3 0 5 MD2 
* Default values used in MD2: 
* EG=1.11 XTI=3.0 TT=0 CJO=0 
* BV=infinite IBV=1mA 
.MODEL MD2 D IS=1e-10 N=0.45888 RS=3e-06 
RL 5 10 1 
FI2 7 9 VFI2 -1 
VFI2 4 0 0 
EV16 10 0 9 7 1 
CAP 11 10 9.81932e-10 
FI1 7 9 VFI1 -1 
VFI1 11 6 0 
RCAP 6 10 1 
D4 0 6 MD3 
* Default values used in MD3: 
* EG=1.11 XTI=3.0 TT=0 CJO=0 
* RS=0 BV=infinite IBV=1mA 
.MODEL MD3 D IS=1e-10 N=0.45888 
.ENDS